US08623889B2
To a solution of tert-butyl 6-chloro-4-(1-hydroxyethyl)pyridin-3-ylcarbamate (823 mg, 3.02 mmol) in methylene chloride (40 mL, 500 mmol) was added trifluoroacetic acid (2 mL, 20 mmol). The reaction mixture was stirred at room temperature for 5 hours and then evaporated in vacuo. The resulting residue was dissolved in dichloromethane and washed with saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and evaporated in vacuo to yield 455.2 mg (87%) of 1-(5-amino-2-chloropyridin-4-yl)ethanol which was carried forward without purification.

reactant | tert-butyl 6-chloro-4-(1-hydroxyethyl)pyridin-3-ylcarbamate | 3.02 mmol, 823 mg | ClC1=CC(=C(C=N1)NC(OC(C)(C)C)=O)C(C)O | C12H17ClN2O3
reactant | methylene chloride | 500 mmol, 40 mL | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic acid | 20 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(5-amino-2-chloropyridin-4-yl)ethanol | 455.2 mg, 87% | NC=1C(=CC(=NC1)Cl)C(C)O | C7H9ClN2O
